US06437147B1
1-Cyclohexyl-3-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)thiourea
A solution of a mixture of 1-cyclohexyl-3-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)thiourea and 1-cyclohexyl-3-((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methyl)thiourea (770 mg, 1.44 mmol) in acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 2 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using a mixture of DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 400 mg of the title compound.

reactant | 1-cyclohexyl-3-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)thiourea | C1(CCCCC1)NC(=S)NCC1CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C34H38N4S
reactant | 1-cyclohexyl-3-((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methyl)thiourea | 1.44 mmol, 770 mg | C1(CCCCC1)NC(=S)NCC1CC2=C(N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C34H38N4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 1-Cyclohexyl-3-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)thiourea | 400 mg | C1(CCCCC1)NC(=S)NCC1CC2=C(NC=N2)CC1 | C15H24N4S
